US07538241B2
Methyl 2-ethyl-3,5-bis(methoxymethoxy)phenylacetate (300 mg, 1.0 mmol) was dissolved in chloroform (9.0 mL), and with stirring at −30° C., iodine (260 mg, 1.0 mmol) and [bis(trifluoroacetoxy)iodo]benzene (440 mg, 1.0 mmol) were added thereto in order, and stirred at the same temperature for 1 hour. Aqueous saturated sodium thiosulfate solution and aqueous saturated sodium hydroxide solution were added to the reaction mixture, then heated up to room temperature, and stirred further for 2 hours. The reaction mixture was subjected to liquid-liquid separation, and the aqueous layer was washed twice with ethyl acetate. The organic layers were combined and washed with aqueous saturated sodium chloride solution, then dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The residue was purified through silica gel column chromatography (ethyl acetate/n-hexane=1/9 to 1/4) to obtain methyl 2-ethyl-6-iodo-3,5-bis(methoxymethoxy)phenylacetate (230 mg, 53%).

reactant | Methyl 2-ethyl-3,5-bis(methoxymethoxy)phenylacetate | 1.0 mmol, 300 mg | C(C)C1=C(C=C(C=C1OCOC)OCOC)CC(=O)OC | C15H22O6
reactant | iodine | 1.0 mmol, 260 mg | II | I2
reactant | [bis(trifluoroacetoxy)iodo]benzene | 1.0 mmol, 440 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 9.0 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-ethyl-6-iodo-3,5-bis(methoxymethoxy)phenylacetate | 230 mg, 53% | C(C)C1=C(C(=C(C=C1OCOC)OCOC)I)CC(=O)OC | C15H21IO6
